US07767675B2
Step 2. 2-[4-(2-aminopyrimidin-5-yl)-2-fluorophenyl]-2-hydroxy-N-methylacetamide
A mixture of 2-(4-bromo-2-fluorophenyl)-2-hydroxy-N-methylacetamide (0.4 mmol), 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrimidin-2-amine (0.11 g, 0.48 mmol), tetrakis(triphenylphosphine)palladium (0.01 g, 0.01 mmol) and potassium carbonate (0.16 g, 1.2 mmol) in toluene (0.6 mL) and 1,4-dioxane (0.6 mL) was heated at 100° C. for 1.5 h. After cooling to RT, the mixture was filtered through a pad of silica gel, washed with 10% methanol in dichloromethane. The filtrate was concentrated under reduced pressure and the residue purified by chromatography on silica gel with 10% methanol in dichloromethane to afford the desired product. LCMS: (M+H)=277.0.

reactant | 2-(4-bromo-2-fluorophenyl)-2-hydroxy-N-methylacetamide | 0.4 mmol | BrC1=CC(=C(C=C1)C(C(=O)NC)O)F | C9H9BrFNO2
reactant | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrimidin-2-amine | 0.48 mmol, 0.11 g | CC1(OB(OC1(C)C)C=1C=NC(=NC1)N)C | C10H16BN3O2
reactant | potassium carbonate | 1.2 mmol, 0.16 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 0.6 mL | C1(=CC=CC=C1)C | C7H8
solvent | 1,4-dioxane | 0.6 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.01 mmol, 0.01 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-[4-(2-aminopyrimidin-5-yl)-2-fluorophenyl]-2-hydroxy-N-methylacetamide | NC1=NC=C(C=N1)C1=CC(=C(C=C1)C(C(=O)NC)O)F | C13H13FN4O2
